US06943180B2
N-Acetyl-2-ethoxycarbonyl-3-(4-methoxyphenyl)proline, ethyl ester (13 g, 72%) was prepared from 4-methoxycinnamaldehyde (Lancaster, 8.1 g, 50 mmol) and diethyl acetamidomalonate (Aldrich, 9.9 g, 45 mmol) by the procedure described by Chung et al (J. Org. Chem. 1990, 55, 270).

reactant | 4-methoxycinnamaldehyde | 50 mmol, 8.1 g | COC1=CC=C(C=CC=O)C=C1 | C10H10O2
reactant | diethyl acetamidomalonate | 45 mmol, 9.9 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
product | N-Acetyl-2-ethoxycarbonyl-3-(4-methoxyphenyl)proline, ethyl ester | 13 g, 72% | C(C)(=O)N1C(C(=O)OCC)(C(CC1)C1=CC=C(C=C1)OC)C(=O)OCC | C19H25NO6
